US04562006
Cyclopropanecarboxylic acid, 2-(2-formylethenyl)-ethyl ester
A mixture of ethyl 2-formyl-1-cyclopropanecarboxylate (55 g, 0.39 moles) and formylmethylenetriphenylphosphorane (117.7 g, 0.39 moles) in tetrahydrofuran (600 ml) is refluxed for 40 hours. The solvent is removed under reduced pressure. The residue is triturated with ether/hexane (1:1) and filtered. The filtrate is evaporated, dissolved in ether/petroleum ether and filtered through a column of silica gel. The solvent is stripped from the filtrate to give a dark oil. The oil is distilled under reduced pressure to give the product as a clear colorless oil (52.1 g, 80%), b.p. 105°-113° C. (2.0 mm).

reactant | ethyl 2-formyl-1-cyclopropanecarboxylate | 0.39 moles, 55 g | C(=O)C1C(C1)C(=O)OCC | C7H10O3
reactant | formylmethylenetriphenylphosphorane | 0.39 moles, 117.7 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | Cyclopropanecarboxylic acid, 2-(2-formylethenyl)-ethyl ester | 52.1 g, 80% | C1(CC1)C(=O)OCCC=CC=O | C9H12O3
